US04963568
Step 8: [1R,8S,9aR]-1 Amino-5,6-dihydroxy-2,3,7,8,9,9a-hexahydro-8-phenyl-phenalene hydrobromide
A solution of 0.4 g (1.2 mmol) of [1R,8S,9aR]-1-amino-5,6-dimethoxy-2,3,7,8,9,9a-hexahydro-8 phenyl-phenalene, from Step 7, in 9 mL of methylene chloride was treated with 4.4 mL of a 1M solution of boron tribromide in methylene chloride (4.4 mmol), added dropwise at -78° C. The reaction mixture was warmed to ambient temperature for 1 h and recooled to 78° C. and quenched with 5 mL of methanol. The reaction mixture was allowed to warm to ambient temperature and stirred at ambient temperature for 1 h. The solvent was removed in vacuo. Methanol (5 mL) was added and the solution was concentrated to remove methyl borate by azeotropic distillation. The title compound was obtained after recrystallization from ethanol/diethyl ether as a white solid.

reactant | [1R,8S,9aR]-1-amino-5,6-dimethoxy-2,3,7,8,9,9a-hexahydro-8 phenyl-phenalene | 1.2 mmol, 0.4 g | N[C@@H]1CCC2=CC(=C(C=3C[C@H](C[C@@H]1C23)C2=CC=CC=C2)OC)OC | C21H25NO2
reactant | boron tribromide | B(Br)(Br)Br | BBr3
solvent | methylene chloride | 9 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 4.4 mmol | C(Cl)Cl | CH2Cl2
product | [1R,8S,9aR]-1 Amino-5,6-dihydroxy-2,3,7,8,9,9a-hexahydro-8-phenyl-phenalene hydrobromide | Br.N[C@@H]1CCC2=CC(=C(C=3C[C@H](C[C@@H]1C23)C2=CC=CC=C2)O)O | InChI=1S/C19H21NO2.BrH/c20-16-7-6-12-10-17(21)19(22)15-9-13(8-14(16)18(12)15)11-4-2-1-3-5-11;/h1-5,10,13-14,16,21-22H,6-9,20H2;1H/t13-,14-,16+;/m0./s1
